US05288707
3-Methoxy-1-propene (6.0 g, 83.3 mMol) is reacted with catecholborane (10.0 g, 83.3 mMol) at 100° C. over 24 hr. The crude product is distilled in vacuo to give 3-methoxy-propane-1-boronate as a colourless oil. (+)-Pinanediol(10.6 g, 62.5 g mMol) is dissolved in THF and the above synthesized 3-methoxy-propane-1-boronate (12.0 g, 62.5 mMol) is added. After 1 hr at room temperature, the THF is removed in vacuo and the residue is purified by flash chromatography (80:20 hexane/EtOAc) to give (+)-pinanediol-3-methoxy-propane-1-boronate as a colourless oil.

reactant | (+)-Pinanediol | 10.6 g | C12(C(CCC(C1(C)C)C2)(C)O)O | C10H18O2
reactant | 3-methoxy-propane-1-boronate | 62.5 mMol, 12.0 g | COCCCB([O-])[O-]
solvent | THF | C1CCOC1 | C4H8O
product | (+)-pinanediol 3-methoxy-propane-1-boronate | C12(C(CCC(C1(C)C)C2)(C)O)O.COCCCB([O-])[O-] | InChI=1S/C10H18O2.C4H9BO3/c1-8(2)7-4-5-9(3,11)10(8,12)6-7;1-8-4-2-3-5(6)7/h7,11-12H,4-6H2,1-3H3;2-4H2,1H3/q;-2
